US08557805B2
7-Methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-2-[5-(2-morpholin-4-yl-2-oxoethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indole
To a solution of [2-(7-methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetic acid (300 mg) and morpholine (0.088 mL) in N,N-dimethylformamide (20 mL) were added 1-hydroxybenzotriazole (137 mg) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (194 mg) under ice-cooling, and the mixture was stirred under ice-cooling and then at room temperature for 15 hr. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with aqueous sodium hydrogen carbonate solution and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:methanol=100:0 to 90:10, volume ratio), and the obtained pale-yellow oil was crystallized from ethyl acetate-diethyl ether to give the title compound (286 mg, yield 83%) as colorless crystals.

reactant | [2-(7-methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetic acid | 300 mg | CC=1C=C(C=C2C=C(NC12)C=1SC(CN1)CC(=O)O)OC=1C=NC(=CC1)S(=O)(=O)C | C20H19N3O5S2
reactant | morpholine | 0.088 mL | N1CCOCC1 | C4H9NO
reactant | 1-hydroxybenzotriazole | 137 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 194 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 7-Methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-2-[5-(2-morpholin-4-yl-2-oxoethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indole | 286 mg, yield 83% | CC=1C=C(C=C2C=C(NC12)C=1SC(CN1)CC(=O)N1CCOCC1)OC=1C=NC(=CC1)S(=O)(=O)C | C24H26N4O5S2
